US07560558B2
Compound 73: [4-(Tert-butyl)phenyl]{2-[(6,7-dimethoxy-4-quinolyl)oxy]-5-methylphenyl}methanone
4-(2-Bromo-4-methylphenoxy)-6,7-dimethoxyquinoline (100 mg) was dissolved in tetrahydrofuran (6 ml) to prepare a solution which was then cooled to −78° C. A 1.59 M n-butyllithium/hexane solution (0.35 ml) was added to the cooled solution, and the mixture was stirred at −78° C. for 20 min. 4-Tert-butylphenylcarbonyl chloride (0.15 ml) was added to the reaction solution, and the mixture was stirred at room temperature for 30 min. Further, water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using acetone-chloroform to give the title compound (31 mg, yield 25%).

reactant | 4-(2-Bromo-4-methylphenoxy)-6,7-dimethoxyquinoline | 100 mg | BrC1=C(OC2=CC=NC3=CC(=C(C=C23)OC)OC)C=CC(=C1)C | C18H16BrNO3
reactant | n-butyllithium hexane | 1.59 M, 0.35 ml | C(CCC)[Li].CCCCCC
reactant | 4-Tert-butylphenylcarbonyl chloride | 0.15 ml | C(C)(C)(C)C1=CC=C(C=C1)C(=O)Cl | C11H13ClO
reactant | water | O | H2O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | [4-(Tert-butyl)phenyl]{2-[(6,7-dimethoxy-4-quinolyl)oxy]-5-methylphenyl}methanone | 31 mg, yield 25% | C(C)(C)(C)C1=CC=C(C=C1)C(=O)C1=C(C=CC(=C1)C)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C29H29NO4
